US08426597B2
1-[4-Bromo-3-(bromomethyl)butanoyl]-6-[4-(1-cyclohexyl-1H-tetrazol-5-yl)butoxy]-3,4-dihydroquinolin-2(1H)-one (4)
To a solution of 6-[4-(1-cyclohexyl-1H-tetrazol-5-yl)butoxy]-3,4-dihydroquinolin-2(1H)-one (cilostazol, 1, A=H, 2.0 g, 3.50 mmol), N,N-dimethylaminopyridine (0.043 g, 0.35 mmol) and triethylamine (0.5 ml, 0.35 mmol) in THF (100 mL) at 0° C. and under nitrogen, a solution of 4-bromo-3-(bromomethyl)butanoyl chloride (0.97 g, 3.50 mmol) in THF (5 mL) is slowly added and the reaction mixture stirred at room temperature for 2 hours. Then it is partitioned between ethyl acetate and phosphate buffer (pH=3) and extracted with ethyl acetate (3×25 mL). The organic phase is dried over Na2SO4 and concentrated. The crude material is purified by flash chromatography (CH2Cl2/acetone 7:3).

reactant | 6-[4-(1-cyclohexyl-1H-tetrazol-5-yl)butoxy]-3,4-dihydroquinolin-2(1H)-one | C1(CCCCC1)N1N=NN=C1CCCCOC=1C=C2CCC(NC2=CC1)=O | C20H27N5O2
reactant | cilostazol | C1=CC2=C(C=C1OCCCCC3=NN=NN3C4CCCCC4)CCC(=O)N2 | C20H27N5O2
reactant | triethylamine | 0.35 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-3-(bromomethyl)butanoyl chloride | 3.50 mmol, 0.97 g | BrCC(CC(=O)Cl)CBr | C5H7Br2ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-[4-Bromo-3-(bromomethyl)butanoyl]-6-[4-(1-cyclohexyl-1H-tetrazol-5-yl)butoxy]-3,4-dihydroquinolin-2(1H)-one | BrCC(CC(=O)N1C(CCC2=CC(=CC=C12)OCCCCC1=NN=NN1C1CCCCC1)=O)CBr | C25H33Br2N5O3
